US05654307
A mixture of 7-fluoro-4-(3-bromoanilino)pyrido[4,3-d]pyrimidine (100 mg, 0.31 mmole), triethylamine (4.4 mL, 32 mmole) and methylamine hydrochloride (2.12 g, 32 mmole) in isopropanol (30 mL) contained in a steel bomb is stirred at 100° C. (oil bath) for 5 h. The resulting mixture is concentrated under vacuum, basified with aqueous Na2CO3, diluted with water and extracted with EtOAc (3×100 mL). Chromatography of this extract on silica gel (1-2% MeOH/CH2Cl2) gives 4-[N-(3-bromophenyl)-N-methylamino]-7-methylaminopyrido[4,3-d]pyrimidine (23 mg, 21%) as a pale yellow solid. 1H NMR (DMSO) δ 8.14 (1H, s), 7.79 (1H, s), 7.30 (1H, t, J=8.0 Hz), 7.20 (1H, ddd, J=7.9, 1.8, 0.8 Hz), 7.03 (1H, brq, J=4.9 Hz), 7.01 (1H, t, J=1.9 Hz), 6.82 (1H, ddd, J=7.8, 1.8, 0.9 Hz), 6.25 (1H, s), 3.40 (3H, s), 2.73 (3H, d, J=4.9 Hz).

reactant | 7-fluoro-4-(3-bromoanilino)pyrido[4,3-d]pyrimidine | 0.31 mmole, 100 mg | FC1=CC=2N=CN=C(C2C=N1)NC1=CC(=CC=C1)Br | C13H8BrFN4
reactant | triethylamine | 32 mmole, 4.4 mL | C(C)N(CC)CC | C6H15N
reactant | methylamine hydrochloride | 32 mmole, 2.12 g | Cl.CN
solvent | isopropanol | 30 mL | C(C)(C)O | C3H8O
product | 4-[N-(3-bromophenyl)-N-methylamino]-7-methylaminopyrido[4,3-d]pyrimidine | 23 mg, 21% | BrC=1C=C(C=CC1)N(C)C=1C2=C(N=CN1)C=C(N=C2)NC | C15H14BrN5
